US09428465B2
Step 3. Preparation of 5-phenyl-1H-pyrimidine-2,4-dione
1-Benzhydryl-5-phenyl-pyrimidine-2,4-dione (0.13 g, 0.35 mmol) was added to solution of triflic acid (0.09 mL, 0.99 mmol) in TFA (0.87 mL) cooled to 0° C. The reaction mixture was stirred for 2 hrs and then quenched by addition of ice. The white precipitate was filtered and dried. The filtrate was diluted with EtOAc and the two phases were separated. The aqueous layer was further extracted with EtOAc (3×15 mL), the combined organic phases were dried over Na2SO4 and the solvent was removed under reduced pressure. The crude was taken up with a 1:1 dichloromethane/diethyl ether mixture; the product precipitated as white solid that was filtered and combined to the first fraction isolated (0.06 g, 65%). Analytical data were consistent with those reported in the literature (J. Org. Chem. 1990, 55, 1396-1399); 1H NMR (400 MHz, DMSO-d6) δ 7.25-7.30 (m 1H), 7.32-7.39 (m, 2H), 7.51-7.56 (m 2H), 7.60 (s 1H), 11.10 (br s, 1H), 11.22 (br s, 1H). MS (ESI) m/z: 187 [M-H]−.

reactant | 1-Benzhydryl-5-phenyl-pyrimidine-2,4-dione | 0.35 mmol, 0.13 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(NC(C(=C1)C1=CC=CC=C1)=O)=O | C23H18N2O2
reactant | triflic acid | 0.99 mmol, 0.09 mL | OS(=O)(=O)C(F)(F)F | CHF3O3S
solvent | TFA | 0.87 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-phenyl-1H-pyrimidine-2,4-dione | C1(=CC=CC=C1)C=1C(NC(NC1)=O)=O | C10H8N2O2
